US04267333
A 250 mL one-necked flask was charged with 18.3 grams of isatin (0.124 mol), 37.1 mL. of 30% potassium hydroxide (0.196 mol) and 50 mL of water. The mixture was stirred at room temperature for 6 hours. At the end of this time, the pH of the mixture was adjusted to 7.36 by the addition of 10% hydrochloric acid. Water was removed from the mixture by means of a rotary evaporator, and the crude potassium 2-aminophenylglyoxylate obtained in this manner was dried in a desicator. The crude, dried material weighed 22.1 grams, indicating a yield of 87 percent.

reactant | isatin | 0.124 mol, 18.3 grams | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | potassium hydroxide | 0.196 mol | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 50 mL | O | H2O
product | potassium 2-aminophenylglyoxylate | yield of 87 percent | NC1=C(C=CC=C1)C(C(=O)[O-])=O.[K+] | InChI=1S/C8H7NO3.K/c9-6-4-2-1-3-5(6)7(10)8(11)12;/h1-4H,9H2,(H,11,12);/q;+1/p-1
